US07855202B2
2-(4-Fluorophenyl)-5-pyridin-3-yl-6-pyridin-4-yl-3H-imidazo[4,5-b]pyridine
A sealed tube containing 3,2′:3′,4″-terpyridine-5′,6′-diamine (Intermediate 2,148 mg, 0.56 mmol), 4-fluorobenzaldehyde (57.0 μL, 0.53 mmol) and dioxane (3 mL) was filled with air and heated to 100° C. for 6 days. Then, the solvent was removed and CH3CN (2 mL) followed by Yb(OTf)3 were added, and the reaction mixture was stirred for 4 days at room temperature. Afterwards, the solvent was evaporated in vacuo and the residue was purified by flash column chromatography (CH2Cl2/EtOH/aq NH3 100:8:1) to afford the title compound as a white solid (27 mg, 13%).

reactant | 3,2′:3′,4″-terpyridine-5′,6′-diamine | 0.56 mmol, 2,148 mg | N1=CC(=CC=C1)C1=NC(=C(C=C1C1=CC=NC=C1)N)N | C15H13N5
reactant | 4-fluorobenzaldehyde | 0.53 mmol, 57.0 μL | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-(4-Fluorophenyl)-5-pyridin-3-yl-6-pyridin-4-yl-3H-imidazo[4,5-b]pyridine | 27 mg, 13% | FC1=CC=C(C=C1)C1=NC=2C(=NC(=C(C2)C2=CC=NC=C2)C=2C=NC=CC2)N1 | C22H14FN5
